US08809342B2
To a solution of 4-bromo-2-hydroxybenzonitrile (2 g, 10 mmol) in DMF (15 mL) and was added iodomethanel (2.87 g, 20.2 mmol) and potassium carbonate (2.79 g, 20.2 mmol) at room temperature. The mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate (10 mL*3). The combined organic layers were dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 4-bromo-2-methoxybenzonitrile (2.08 g) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.34 (d, J=8.0 Hz, 1H), 7.10 (dd, J=8.4, 1.6 Hz, 1H), 7.06 (d, J=1.6 Hz, 1H), 3.87 (s, 3H).

reactant | 4-bromo-2-hydroxybenzonitrile | 10 mmol, 2 g | BrC1=CC(=C(C#N)C=C1)O | C7H4BrNO
reactant | potassium carbonate | 20.2 mmol, 2.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2-methoxybenzonitrile | 2.08 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
